US07544803B2
4-Bromo-N-quinolin-7-yl-benzamide.
This material was prepared analogous to the procedure described for Example 1(c). 4-Bromo-benzoyl chloride (2.19 g, 10 mmol, Aldrich) reacted with 7-amino-quinoline (1.22 g, 8.5 mmol, prepared according to the procedure described in WO03099284) to give the title compound. MS (ESI, pos. ion) m/z: 328 (M+1).

reactant | 4-Bromo-benzoyl chloride | 10 mmol, 2.19 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 7-amino-quinoline | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
product | 4-Bromo-N-quinolin-7-yl-benzamide | BrC1=CC=C(C(=O)NC2=CC=C3C=CC=NC3=C2)C=C1 | C16H11BrN2O
